US08729304B2
2,4-Dimethyl-1-(propan-2-yl)-1,4,2-diazaphospholidine-3,5-dione
To a mixture of 0.41 g (7.2 mmol) of methyl isocyanate and 6.13 g (72 mmol) of 2-propyl isocyanate was added, at room temperature, over the course of 1 h, 0.7 g (7 mmol) of 1-methyl-2,5-dihydro-1H-phosphole. No exothermicity was observed. The initially colourless liquid mixture gradually changed colour to pale yellow. Stirring at room temperature for 48 hours was followed by analysis by means of 1H and 31P NMR and GC-MS. As well as unconverted 1-methyl-2,5-dihydro-1H-phosphole and small amounts of the P-oxide thereof, essentially 2 singlets in the 31P NMR spectrum at 30.8 ppm (1,2,4-trimethyl-1,4,2-diazaphospholidine-3,5-dione; cf. Ex. 1) and 15.6 ppm (compound 3) were found. The integration ratio was 1:2.2. This ratio was determined by gas chromatography to be 1:3.5. The arrangement of the N-bonded exocyclic substituents was confirmed by means of 2D NMR.

reactant | methyl isocyanate | 7.2 mmol, 0.41 g | CN=C=O | C2H3NO
reactant | 2-propyl isocyanate | 72 mmol, 6.13 g | CC(C)N=C=O | C4H7NO
reactant | 1-methyl-2,5-dihydro-1H-phosphole | 7 mmol, 0.7 g | CP1CC=CC1 | C5H9P
reactant | 1,2,4-trimethyl-1,4,2-diazaphospholidine-3,5-dione | CN1P(C(N(C1=O)C)=O)C | C5H9N2O2P
product | 2,4-Dimethyl-1-(propan-2-yl)-1,4,2-diazaphospholidine-3,5-dione | CP1N(C(N(C1=O)C)=O)C(C)C | C7H13N2O2P
